US08048887B2
5-(3-(1-Benzyl-1H-pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
(Bromomethyl)benzene (17 mg, 0.097 mmol) was added to a stirring solution of Na2CO3 (11 mg, 0.097 mmol) and 5-(3-(1H-pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (20 mg, 0.049 mmol) in DMF (486 μL) at 100° C. It was allowed to stir overnight, filtered and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered H2O/CH3CN gradient, and concentrated to give the titled compound (8.6 mg, 35%). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.49-8.57 (1H, m), 8.06-8.11 (1H, m), 7.98-8.04 (2H, m), 7.92 (1H, d, J=2.44 Hz), 7.86-7.89 (1H, m), 7.75-7.83 (2H, m), 7.69-7.75 (1H, m), 7.63 (1H, d, J=8.24 Hz), 7.51 (1H, t, J=7.63 Hz), 7.34-7.43 (4H, m), 7.27-7.32 (3H, m), 6.89 (1H, d, J=2.44 Hz), 5.41 (2H, s), 2.86 (3H, d, J=4.58 Hz). LC-MS retention time: 2.00 min; m/z (MH+): 502. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=15.47 min, purity=99%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=13.77 min, purity=100%.

reactant | (Bromomethyl)benzene | 0.097 mmol, 17 mg | BrCC1=CC=CC=C1 | C7H7Br
reactant | Na2CO3 | 0.097 mmol, 11 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-(3-(1H-pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.049 mmol, 20 mg | N1N=CC=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C25H18FN3O2
solvent | DMF | 486 μL | CN(C)C=O | C3H7NO
product | 5-(3-(1-Benzyl-1H-pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 8.6 mg, 35% | C(C1=CC=CC=C1)N1N=CC=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C32H24FN3O2
